US07977387B2
(5-Bromo-2-methyl-phenyl)-(2-chloro-4-nitro-phenyl)-methanone (Compound 540)
A dry flask was charged with 4-bromo-2-iodo-1-methyl-benzene (6.85 g, 23.1 mmol) and the flask was evaporated and then filled with argon and this process repeated twice. Dry THF (20 mL) was added, and the solution cooled to −35° C.; then isopropylmagnesium chloride (11.5 mL, 2.0 M in diethyl ether, 23 mmol) was added slowly over 40 min keeping the temperature below −35° C. On completion of the addition the reaction mixture was stirred at −35° C. for 30 min. A THF solution of ZnCl2 (3.93 g, 28.9 mmol, 0.7 M) was added dropwise over 20 min. The reaction mixture was stirred at 0° C. for 20 min; then 2-chloro-4-nitro-benzoyl chloride (5.33 g, 24.2 mmol) and Cu(OAc)2 (92 mg, 0.46 mmol) were added and the reaction mixture was allowed to warm to room temperature. After 16 h the reaction mixture was poured into a mixture of EtOAc/water, then shaken and separated. The aqueous phase was extracted with more EtOAc. The organic phases were combined, dried (MgSO4), filtered, and concentrated in vacuo to afford the crude product. The crude product was purified by flash chromatography using EtOAc/petroleum ether 1:14 as the eluent to give the title compound as almost white solid.

reactant | 4-bromo-2-iodo-1-methyl-benzene | 23.1 mmol, 6.85 g | BrC1=CC(=C(C=C1)C)I | C7H6BrI
reactant | isopropylmagnesium chloride | 23 mmol, 2.0 M, 11.5 mL | C(C)(C)[Mg]Cl
reactant | THF | C1CCOC1 | C4H8O
reactant | 2-chloro-4-nitro-benzoyl chloride | 24.2 mmol, 5.33 g | ClC1=C(C(=O)Cl)C=CC(=C1)[N+](=O)[O-] | C7H3Cl2NO3
catalyst | ZnCl2 | 28.9 mmol, 0.7 M, 3.93 g | [Cl-].[Cl-].[Zn+2]
catalyst | Cu(OAc)2 | 0.46 mmol, 92 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | EtOAc water | CCOC(=O)C.O
product | (5-Bromo-2-methyl-phenyl)-(2-chloro-4-nitro-phenyl)-methanone | BrC=1C=CC(=C(C1)C(=O)C1=C(C=C(C=C1)[N+](=O)[O-])Cl)C | C14H9BrClNO3
